US07851626B2
2-{4-[(4S,5R)-2-(4-tert-Butylsulfamoyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-acetamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butylsulfamoyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 2-piperazin-1-yl-acetamide dihydrochloride (Matrix Scientific) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). HR-MS (ES, m/z) calculated for C36H44N6O5SCl2 [(M+H)+] 743.2544, observed 743.2538.

reactant | rac-(4S*,5R*)-2-(4-tert-butylsulfamoyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OCC | C30H32Cl3N3O4S
reactant | 2-piperazin-1-yl-acetamide dihydrochloride | Cl.Cl.N1(CCNCC1)CC(=O)N
product | 2-{4-[(4S,5R)-2-(4-tert-Butylsulfamoyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-acetamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)N)OCC | C36H44Cl2N6O5S
